US04772600
2-[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]-1-phenyl ethanone
Under nitrogen atmosphere, a solution of 2-(4-chlorophenyl)-α-phenyl-3H-imidazo[4,5-b]pyridine-3-ethanol (9.44 g, 0.027 mole) in methylene chloride (50 ml) was added to a stirred suspension of pyridinium chlorochromate (8.75 g, 0.041 mole) in methylene chloride (100 ml) and allowed to stir at room temperature overnight. The reaction mixture was filtered. The residue was treated with boiling methylene chloride and filtered. The methylene chloride filtrate was treated with Florisil® and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from isopropyl alcohol. The crystals were collected by filtration, washed with isopropyl alcohol/water, and dried under high vacuum overnight at room temperature to give 5.0 g (54%) of title compound, mp. 211°-212.5° C.

reactant | 2-(4-chlorophenyl)-α-phenyl-3H-imidazo[4,5-b]pyridine-3-ethanol | 0.027 mole, 9.44 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(O)C1=CC=CC=C1 | C20H16ClN3O
reactant | pyridinium chlorochromate | 0.041 mole, 8.75 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridin-3-yl]-1-phenyl ethanone | 5.0 g, 54% | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)C1=CC=CC=C1 | C20H14ClN3O
